US06664260B2
A 200 ml round bottom flask was charged with 2-phenoxy-N4-[2-(3-pyridin-3-ylpropoxy)ethyl]-5,6,7,8-tetrahydroquinoline-3,4-diamine (4.1 g, 0.0098 mol.) and pyridine (40 mL) at room temperature. To this solution was slowly added acetyl chloride (0.8 g, 0.011 mol., 1.1 equivalents). The reaction was maintained with stirring at room temperature. After two hours the reaction was monitored and found to only contain the amide intermediate. The reaction mixture was then heated to reflux and maintained overnight. The reaction mixture was concentrated to provide a dark amber syrup. The syrup was taken up in ethyl acetate (300 mL) and washed with water (2×100 mL). The ethyl acetate layer was concentrated to provide 2-methyl-4-phenoxy-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinoline as an orange syrup (3.8 g, 88%). TLC (10%MeOH/CH2Cl2, Rf=0.34). Mass-spec M+1=443.2

reactant | 2-phenoxy-N4-[2-(3-pyridin-3-ylpropoxy)ethyl]-5,6,7,8-tetrahydroquinoline-3,4-diamine | 0.0098 mol, 4.1 g | O(C1=CC=CC=C1)C1=NC=2CCCCC2C(=C1N)NCCOCCCC=1C=NC=CC1 | C25H30N4O2
reactant | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.011 mol, 0.8 g, 1.1 equivalents | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 2-methyl-4-phenoxy-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinoline | 3.8 g, 88% | CC=1N(C2=C(C(=NC=3CCCCC23)OC2=CC=CC=C2)N1)CCOCCCC=1C=NC=CC1 | C27H30N4O2
